US07709509B2
To a solution of 200 mg of 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methylsulfanyl-benzonitrile (prepared according to the method described in example 23) in 4 ml of dichloromethane at 0° C. was added 74 mg of meta-chloroperbenzoic acid. The resulting mixture was stirred at 0° C. for 2 hours then kept in the freezer overnight. A saturated aqueous solution of sodium hydrogenocarbonate was added and the organic layer was separated. The aqueous layer was extracted with dichloromethane. The combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 203 mg of 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methylsulfinyl-benzonitrile, which was transformed into 3-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methylsulfinyl-phenyl}-4H-[1,2,4]oxadiazol-5-one according to the method described in example 1.

reactant | 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methylsulfanyl-benzonitrile | 200 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(C#N)C=C1)SC)C1=CC=C(C=C1)C(F)(F)F | C23H21F3N2OS2
reactant | meta-chloroperbenzoic acid | 74 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium | [Na] | Na
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-methylsulfinyl-benzonitrile | 203 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(C#N)C=C1)S(=O)C)C1=CC=C(C=C1)C(F)(F)F | C23H21F3N2O2S2
